US07384952B2
To a solution of 6-oxo-1,4,5,6-tetrahydropyridazine-3-carboxylic acid (20 g) in acetic acid (50 mL) is added 25% hydrobromic acid/acetic acid (200 mL) and thereto is added dropwise dimethylsulfoxide (22.0 g) at room temperature. The mixture is stirred at room temperature for 3 days. The resultant precipitates are collected by filtration, washed successively with acetic acid and water and dried at 40° C. overnight to give 6-oxo-1,6-dihydropyridazine-3-carboxylic acid (10.55 g, yield; 54%) as colorless crystals. MS (ESI) m/z: 139 [M−H]−

reactant | 6-oxo-1,4,5,6-tetrahydropyridazine-3-carboxylic acid | 20 g | O=C1CCC(=NN1)C(=O)O | C5H6N2O3
reactant | hydrobromic acid acetic acid | 200 mL | Br.C(C)(=O)O
reactant | dimethylsulfoxide | 22.0 g | CS(=O)C | C2H6OS
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 6-oxo-1,6-dihydropyridazine-3-carboxylic acid | 10.55 g, yield; 54% | O=C1C=CC(=NN1)C(=O)O | C5H4N2O3
